US05495020
To 2,4-difluoro-3-methylaniline (20 g) are added 42% tetrafluoroboric acid (56 ml) and water (28 ml) under ice cooling and thereto a solution of sodium nitrite (10 g) in water (20 ml) is added dropwise at below 10° C. After dropwise addition, the mixture is stirred at 0° C. for 15 minutes and the formed crystals are filtered, which is washed with a mixture of ethanol--diethyl ether (1:2), then with diethyl ether, followed by drying under reduced pressure to give 2,4-difluoro-3-methylbenzene diazonium tetrafluoroborate (28.95 g), m.p. 114°-115° C.

reactant | 2,4-difluoro-3-methylaniline | 20 g | FC1=C(N)C=CC(=C1C)F | C7H7F2N
reactant | tetrafluoroboric acid | 56 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 10 g | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 28 ml | O | H2O
product | 2,4-difluoro-3-methylbenzene diazonium tetrafluoroborate | 28.95 g | F[B-](F)(F)F.FC1=C(C=CC(=C1C)F)[N+]#N | InChI=1S/C7H5F2N2.BF4/c1-4-5(8)2-3-6(11-10)7(4)9;2-1(3,4)5/h2-3H,1H3;/q+1;-1
